US07435823B2
Step (a) Preparation of 5-fluoro-6-(6-methoxy-7-(3-morpholinopropoxy)quinolin-4-yloxy)-1-naphthoic acid
In a microwave tube, 5-fluoro-6-hydroxy-1-naphthoic acid (300 mg, 1.48 mmol) and Cs2CO3 (1.45 g, 4.44 mmol) in DMSO (1.5 mL) were stirred for 3 min at RT. 4-Chloro-6-methoxy-7-(3-morpholinopropoxy)quinoline (500 mg, 1.48 mmol) was added and the vessel sealed. The mixture was subjected to the microwave (Personal Chemistry) at 160° C. for 15 min, then 30 min. The vessel was opened and the mixture stirred with a spatula, resealed and heated another 5 minutes. The reaction mixture made pH 7 with 1 N HCl and evaporated. The residual solid was taken up into MeOH and filtered and evaporated. The solid was then taken up into and CH2Cl2/MeOH mixture and filtered. The filtrate was evaporated to dryness and triturated with ethyl acetate/hexanes and the title compound collected as a yellow solid.

reactant | 5-fluoro-6-hydroxy-1-naphthoic acid | 1.48 mmol, 300 mg | FC1=C2C=CC=C(C2=CC=C1O)C(=O)O | C11H7FO3
reactant | Cs2CO3 | 4.44 mmol, 1.45 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-Chloro-6-methoxy-7-(3-morpholinopropoxy)quinoline | 1.48 mmol, 500 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C17H21ClN2O3
reactant | HCl | 1 N | Cl | ClH
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | 5-fluoro-6-(6-methoxy-7-(3-morpholinopropoxy)quinolin-4-yloxy)-1-naphthoic acid | FC1=C2C=CC=C(C2=CC=C1OC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1)C(=O)O | C28H27FN2O6
